US04197296
17,17-Ethylenedioxy-11-oximino-5α-androstan-3α-ol
3α-Acetoxy-17,17-ethylenedioxy-5α-androstan-11-one (1.0 g) was added to a solution of hydroxylamine prepared by addition of 50% aqueous sodium hydroxide (4 ml) to hydroxylamine hydrochloride (2 g) in ethanol (30 ml). After 17 hours reflux most of the solvent was evaporated in vacuo, the residue was diluted with water and the solid (836 mg) was collected by filtration. A portion was recrystallized from aqueous ethanol to afford the title compound m.p. 158°-159°.

reactant | 3α-Acetoxy-17,17-ethylenedioxy-5α-androstan-11-one | 1.0 g | C(C)(=O)O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CCC5([C@@]4(C)CC([C@@H]3[C@]2(CC1)C)=O)OCCO5 | C23H34O5
reactant | hydroxylamine | NO | H3NO
reactant | sodium hydroxide | 4 ml | [OH-].[Na+]
reactant | hydroxylamine hydrochloride | 2 g | Cl.NO
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 17,17-Ethylenedioxy-11-oximino-5α-androstan-3α-ol | C1OC2([C@]3(C)[C@@H](CC2)[C@@H]2CC[C@H]4C[C@@H](CC[C@]4(C)[C@H]2C(C3)=NO)O)OC1 | C21H33NO4
